US09227985B2
Bromine (2.1 g, 13.4 mmol) dissolved in acetic acid (1 mL) was added slowly to a mixture of 2-methyl-(1-pyridin-2-yl)propan-1-one (2.0 g, 13 mmol) in acetic acid (20 mL) at room temperature. The reaction was heated to 105° C. for 3 h, allowed to cool to room temperature, and concentrated in vacuo to give a dark semisolid. The crude product was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate. The combined organic layer was washed with brine, dried over magnesium sulfate, and concentrated to give 2-bromo-2-methyl-1-(pyridin-2-yl)propan-1-one as a very dark oil (3.0 g, 98%). LCMS calculated for C9H11BrNO (M+H)+: m/z=227.9, 229.9. found: 228.1, 230.1.

reactant | Bromine | 13.4 mmol, 2.1 g | BrBr | Br2
reactant | 2-methyl-(1-pyridin-2-yl)propan-1-one | 13 mmol, 2.0 g | CC(C(=O)C1=NC=CC=C1)C | C9H11NO
solvent | acetic acid | 1 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
product | 2-bromo-2-methyl-1-(pyridin-2-yl)propan-1-one | BrC(C(=O)C1=NC=CC=C1)(C)C | C9H10BrNO
